US05240573
(2) Synthesis of 3-decyl-1,5,8-triazacyclodecane-2,4-dione (DTADD)
A one litter round bottomed flask was charged with 0.076 mol (22.80 g) of ethyl α-decylmalonate (from above), 0.076 mol (7.74 g) diethylene triamine and 500 ml absolute ethanol. The mixture was refluxed for 42 days. During this period two ml aliquotes of solution were removed by hyperdermic syringe on days 7,15,22, and 37 for NMR analysis to determine the completeness of the reaction. After termination of the reflux, the ethanol was removed under reduced pressure and the product recrystallized from cold acetonitrile to yield 14.71 grams of a white heavy precipitate representing approximately a 62.1% conversion and having NMR characterizations in CDCL3, with signals reported in ppm downfield relative to TMS:

reactant | ethyl α-decylmalonate | 0.076 mol, 22.80 g | C(CCCCCCCCC)C(C(=O)OCC)C(=O)[O-]
reactant | diethylene triamine | 0.076 mol, 7.74 g | NCCNCCN | C4H13N3
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | 3-decyl-1,5,8-triazacyclodecane-2,4-dione | 14.71 grams | C(CCCCCCCCC)C1C(NCCNCCNC1=O)=O | C17H33N3O2
